US07842696B2
DIPEA (0.239 mL, 1.39 mmol) was added drop wise to (2-hydroxy-benzoyl amino)-acetic acid (90 mg, 0.46 mmol) in DMF (7 mL). EDCI (221 mg, 1.15 mmol) and HOBT (74 mg, 0.55 mmol) were added consecutively and after 5 minutes, piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone (162 mg, 0.55 mmol) was added. The resulting mixture was stirred at room temperature overnight. Water was then added, and the product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the crude product. Purification using column chromatography (silica gel of mesh size of 60-120 using 70:30 EtOAc:hexane as eluent) afforded 2-hydroxy-N-[2-Oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazine-1-yl]-ethyl]-benzamide in 25% yield. LC-MS purity: 97%, 1H NMR (DMSO-D6): δ 12.0 (s, 1H), 9.1 (t, 1H), 7.9 (m, 3H), 7.7 (d, 1H), 7.6 (m, 1H), 7.4 (t, 1H), 6.9 (t, 2H), 4.2 (dd, 2H), 3.6 (m, 4H), 3.4 (m, 2H), 3.2 (m, 2H).

reactant | DIPEA | 1.39 mmol, 0.239 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2-hydroxy-benzoyl amino)-acetic acid | 0.46 mmol, 90 mg | OC1=C(C(=O)NCC(=O)O)C=CC=C1 | C9H9NO4
reactant | EDCI | 1.15 mmol, 221 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.55 mmol, 74 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone | 0.55 mmol, 162 mg | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-hydroxy-N-[2-Oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazine-1-yl]-ethyl]-benzamide | 25% yield | OC1=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=CC=C1 | C21H20F3N3O4
